### PR TITLE
Loops and completeness

### PR DESCRIPTION
**Pull request by mitschabaude**
this PR enables completeness proofs for circuits using loops:
* define a generic `forAll` method which maps `Operations` to a `Prop`. this replaces the existing `constraints_hold.generic`, and is general enough to cover the `uses_local_witnesses` statement as well
* rewrite all theorems about `generic` into theorems about `forAll`
* add a `circuit_norm` simp lemma for `uses_local_witnesses (mapFinRange ...)`
* prove completeness for all our circuits using loops: chi, thetaC, thetaXor

### CODE REVIEW

File: Clean/Circuit/Basic.lean [hunk 1]
```diff
@@ -578,6 +578,23 @@ def Circuit.witnesses (circuit: Circuit F α) (offset := 0) : Array F :=
...
+  assert (n: ℕ) : Expression F → Prop
+  lookup (n: ℕ) : Lookup F → Prop
+  subcircuit (n: ℕ) : SubCircuit F n → Prop
+
+def Operations.forAll (condition : Operations.Condition F) : {n : ℕ} → Operations F n → Prop
+  | _, .empty _ => True
+  | n + .(m), .witness ops m c => ops.forAll condition ∧ condition.witness n m c
+  | n, .assert ops e => ops.forAll condition ∧ condition.assert n e
+  | n, .lookup ops l => ops.forAll condition ∧ condition.lookup n l
+  | n + _, .subcircuit ops s => ops.forAll condition ∧ condition.subcircuit n s
```
Comment (mitschabaude) [inline Clean/Circuit/Basic.lean:594]: this is the new definition!

File: Clean/Circuit/Theorems.lean [hunk 2]
```diff
@@ -189,33 +189,46 @@ theorem can_replace_local_witnesses_completeness {env: Environment F} {n: ℕ} {
...
-/--
-Generic version of `constraints_hold`, to reason about soundness and completeness at the same time
--/
-def constraints_hold.generic (from_subcircuit : {n : ℕ} → Environment F → SubCircuit F n → Prop)
-  (eval : Environment F) {n : ℕ} : Operations F n → Prop
-  | .empty _ => True
-  | .witness ops _ _ => generic from_subcircuit eval ops
-  | .assert ops e => generic from_subcircuit eval ops ∧ eval e = 0
-  | .lookup ops { table, entry, .. } => generic from_subcircuit eval ops ∧ table.contains (entry.map eval)
-  | .subcircuit ops s => generic from_subcircuit eval ops ∧ from_subcircuit eval s
```
Comment (mitschabaude) [inline Clean/Circuit/Theorems.lean:204]: this wasn't generic enough, as already noted by @gio54321 in the initial review: https://github.com/Verified-zkEVM/clean/pull/71#discussion_r2042210357

File: Clean/Gadgets/Keccak/Chi.lean [hunk 3]
```diff
@@ -59,16 +59,13 @@ theorem soundness : Soundness (F p) elaborated assumptions spec := by
...
+  -- simplify assumptions
+  simp only [circuit_norm, eval_vector, Vector.ext_iff] at h_input
+  simp only [assumptions, KeccakState.is_normalized] at state_norm
 
-  -- TODO need theorem about `env.uses_local_witnesses_completeness (Vector.mapM ...)`
-  dsimp only [circuit_norm, main, Vector.mapFinRangeM, Xor.circuit, And.And64.circuit, Not.circuit] at h_env
-  sorry
+  -- simplify constraints (goal + environment) and apply assumptions
+  simp_all [state_norm, h_input, main, circuit_norm, subcircuit_norm, Xor.circuit, And.And64.circuit, Not.circuit,
+    Xor.assumptions, Xor.spec, And.And64.assumptions, And.And64.spec, Nat.reduceAdd]
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Chi.lean:68]: the new completeness proofs are all really easy :D

File: Clean/Circuit/Loops.lean [hunk 4]
```diff
@@ -345,15 +345,23 @@ variable {env : Environment F} {m n : ℕ} [NeZero m] [Nonempty β] {body : Fin
...
     ∀ i : Fin m, constraints_hold.completeness env (body i |>.operations (n + i*(body 0).local_length)) := by
-  simp only [mapFinRange, constraints_hold.completeness_iff_generic, constraints_hold.mapFinRangeM_generic]
+  simp only [mapFinRange, constraints_hold.completeness_iff_forAll, constraints_hold.mapFinRangeM_forAll]
+  rw [LawfulCircuit.local_length_eq]
+  trivial
+
+@[circuit_norm]
+lemma mapFinRange.uses_local_witnesses :
+  env.uses_local_witnesses_completeness (mapFinRange m body lawful |>.operations n) ↔
+    ∀ i : Fin m, env.uses_local_witnesses_completeness (body i |>.operations (n + i*(body 0).local_length)) := by
```
Comment (mitschabaude) [inline Clean/Circuit/Loops.lean:363]: this is the new theorem that we needed `Operations.forAll` for!

**Review by marcobesier — APPROVED** [review]
Looking good to me, as well! 👍👍👍
